US06008213
a) Ethyl (±)-10,11-dihydro-3-[[[2-(2-pyridylamino)ethyl]amino]carbonyl]-5H-dibenzo[a,d]cycloheptene-10-acetate
EDC (112.7 mg, 0.59 mmole) was added all at once to a solution of ethyl (±)-10,11-dihydro-3-carboxy-5H-dibenzo[a,d]cycloheptene-10-acetate (157.8 mg, 0.49 mmole), 2-[(2-aminoethyl)amino]pyridine dihydrochloride (123.5 mg, 0.59 mmole), HOBt.H2O (79.5 mg, 0.59 mmole), and diisopropylethylamine (0.43 mL, 2.45 mmole) in anhydrous DMF (2.5 mL) at RT. The reaction was stirred at RT for 18 hr, then was concentrated. The residue was reconcentrated from xylenes, then was diluted with H2O (5 mL) and extracted sequentially with EtOAc (2×5 mL) and CHCl3 (2×5 mL). The organic layers were combined and treated with a little MeOH to dissolve a small amount of insoluble material. Drying (MgSO4), concentration, and silica gel chromatography (5% MeOH/CHCl3) gave the title compound (199.1 mg, 92%) as a yellow oil: TLC (5% MeOH/CHCl3) Rf 0.42; 1H NMR (400, CDCl3) δ 8.10 (d, J=3.5 Hz, 1 H), 8.02 (br s, 1 H), 7.60 (app. narrow d, 1 H), 7.53 (app. dd, 1 H), 7.33-7.42 (m, 1 H), 7.08-7.22 (m, 5 H), 6.57-6.65 (m, 1 H), 6.45 (d, J=8.3 Hz, 1 H), 4.79-4.90 (m, 1 H), 4.36 (d,J=15.1 Hz, 1 H), 4.11-4.26 (m, 2 H), 3.92 (d, J=15.1 Hz, 1 H), 3.80-3.95 (m, 1 H), 3.55-3.72 (m, 4 H), 3.38 (dd, J=15.2, 4.1 Hz, 1 H), 3.03 (dd, J=15.2, 9.5 Hz, 1 H), 2.66 (dd, J=15.8,4.8 Hz, 1 H), 2.50 (dd, J=15.8, 9.6 Hz, 1 H), 1.27 (t, J=7.2 Hz, 3 H); MS (ES) m/e 444 (M+H)+.

reactant | EDC | 0.59 mmole, 112.7 mg
reactant | ethyl (±)-10,11-dihydro-3-carboxy-5H-dibenzo[a,d]cycloheptene-10-acetate | 0.49 mmole, 157.8 mg | C(=O)(O)C=1C=CC2=C(CC3=C(C(C2)CC(=O)OCC)C=CC=C3)C1 | C20H20O4
reactant | 2-[(2-aminoethyl)amino]pyridine dihydrochloride | 0.59 mmole, 123.5 mg | Cl.Cl.NCCNC1=NC=CC=C1
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | H2O | 0.59 mmole, 79.5 mg | O | H2O
reactant | diisopropylethylamine | 2.45 mmole, 0.43 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
product | Ethyl (±)-10,11-dihydro-3-[[[2-(2-pyridylamino)ethyl]amino]carbonyl]-5H-dibenzo[a,d]cycloheptene-10-acetate | 199.1 mg, 92% | N1=C(C=CC=C1)NCCNC(=O)C=1C=CC2=C(CC3=C(C(C2)CC(=O)OCC)C=CC=C3)C1 | C27H29N3O3
